US07842696B2
DIPEA (0.169 mL, 0.98 mmol) was added to a stirred solution of benzoylamino-acetic acid (50 mg, 0.28 mmol) in DMF (1 mL). HOBT (45 mg, 0.34 mmol) and EDCI.HCl (64 mg, 0.34 mmol) were added followed by the addition of piperazine-1-yl-(2-trifluoromethyl-phenyl)-methanone hydrochloride (0.31 mmol) at room temperature. The resulting mixture was stirred at room temperature overnight. Water was then added, and the product was extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure to afford the crude product. Purification using column chromatography (using silica gel, 60-120 A° and 10% methanol in chloroform as the eluent) afforded N-{2-Oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazine-1-yl]-ethyl}benzamide in 30% yield, LC-MS purity: 95%, 1H NMR (CDCl3): δ 7.84 (d, 2H), 7.76 (d, 1H), 7.66-7.56 (m, 2H), 7.54-7.42 (m, 3H), 7.34 (d, 2H), 7.24 (t, 1H), 4.36-4.20 (m, 2H), 4.02-3.84 (m, 2H), 3.78-3.50 (m, 4H), 3.26 (m, 2H).

reactant | DIPEA | 0.98 mmol, 0.169 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | benzoylamino-acetic acid | 0.28 mmol, 50 mg | C(C1=CC=CC=C1)(=O)NCC(=O)O | C9H9NO3
reactant | HOBT | 0.34 mmol, 45 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 0.34 mmol, 64 mg | CCN=C=NCCCN(C)C.Cl
reactant | piperazine-1-yl-(2-trifluoromethyl-phenyl)-methanone hydrochloride | 0.31 mmol | Cl.N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | Water | O | H2O
product | N-{2-Oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazine-1-yl]-ethyl}benzamide | 30% yield | O=C(CNC(C1=CC=CC=C1)=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C21H20F3N3O3
